US05354502
340 g (1.63 mol) of 4-bromo-2,6-difluoroaniline, 223 g (2.5 mol) of CuCN and 800 cm3 of NMP were refluxed for 1.5 hours on a mantle heater. The reaction solution was cooled to room temperature, and after adding 300 cm3 of EDA, it was poured into 2,000 cm3 of water, extracted with hexane, and washed with an aqueous EDA solution and ice. The hexane was removed, and the residue was distilled under reduced pressure (b. p. 143° C./6mmHg) to obtain 108 g (0.7 mol) of 4-amino-3,5-difluorobenzonitrile.

reactant | 4-bromo-2,6-difluoroaniline | 1.63 mol, 340 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | CuCN | 2.5 mol, 223 g | C(#N)[Cu]
reactant | NMP | 800 cm3 | CN1CCCC1=O | C5H9NO
solvent | water | 2,000 cm3 | O | H2O
product | 4-amino-3,5-difluorobenzonitrile | 0.7 mol, 108 g | NC1=C(C=C(C#N)C=C1F)F | C7H4F2N2
